US04833169
A solution of 23.43 g (100 mmol) of 7-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester in 160 ml of absolute tetrahydrofuran is added dropwise, over a period of 30 minutes, while stirring at room temperature, to a suspension of 3.79 g (100 mmol) of lithium aluminium hydride in 160 ml of absolute diethyl ether. After stirring at room temperature for 1 hour, 3.8 ml of water, 3.8 ml of sodium hydroxide solution (15%) and 11.4 ml of water are added to the reaction mixture. The resulting precipitate is filtered off with suction and the filtrate is concentrated to dryness by evaporation in vacuo. The oily residue is dissolved in diethyl ether, washed with water, dried with sodium sulphate and concentrated to dryness by evaporation. 7-methoxy-1,2,3,4-tetrahydro-naphthalene-2-methanol is obtained in the form of a yellow oil.

reactant | 7-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester | 100 mmol, 23.43 g | C(C)OC(=O)C1CC2=CC(=CC=C2CC1)OC | C14H18O3
reactant | lithium aluminium hydride | 100 mmol, 3.79 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3.8 ml | O | H2O
reactant | sodium hydroxide | 3.8 ml | [OH-].[Na+]
reactant | water | 11.4 ml | O | H2O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
product | 7-methoxy-1,2,3,4-tetrahydro-naphthalene-2-methanol | COC1=CC=C2CCC(CC2=C1)CO | C12H16O2
